US08957078B2
A mixture of 5-bromo-3-methyl-4-nitro-isothiazole (200 mg, 0.8967 mmol), (1,3-dioxoisoindolin-2-yl)potassium (174.4 mg, 0.9415 mmol) in dry DMF (2 mL) was stirred at RT overnight. The mixture was quenched by the addition of methanol, stirred at RT for 1 h, then the reaction mixture was concentrated in vacuo. The residue was triturated in a small volume of dry MeOH. The precipitate was collected by filtration and dried in vacuo, yielding methyl 2-((3-methyl-4-nitroisothiazol-5-yl)carbamoyl)benzoate as a pale yellow solid. (165 mg, 57%) MS (ES+) 322.1.

reactant | 5-bromo-3-methyl-4-nitro-isothiazole | 0.8967 mmol, 200 mg | BrC1=C(C(=NS1)C)[N+](=O)[O-] | C4H3BrN2O2S
reactant | (1,3-dioxoisoindolin-2-yl)potassium | 0.9415 mmol, 174.4 mg | O=C1N(C(C2=CC=CC=C12)=O)[K]
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
product | methyl 2-((3-methyl-4-nitroisothiazol-5-yl)carbamoyl)benzoate | CC1=NSC(=C1[N+](=O)[O-])NC(=O)C1=C(C(=O)OC)C=CC=C1 | C13H11N3O5S
